US06673818B2
To a solution of 3,5-difluoro-4-(methylthio)-benzaldehyde (31.3 g, 0.166 mol) in anhydrous THF (200 mL) cooled with a cold water bath was added sodium borohydride (1.6 g, 0.042 mol) in portions over 30 minutes. After stirring 1 hour at room temperature, excess dilute HCl was added, until gas evolution ceased. Water (600 ml) was added and the mixture extracted with dichloromethane (1×500 mL, 1×100 mL). The combined extracts were washed once with water, dried with magnesium sulfate, and concentrated. Purification by silica gel chromatography using 3% ethyl acetate/10% dichloromethane in hexanes initially, and eluting product with 60% ethyl acetate in hexanes gave [3,5-difluoro-4-(methylthio)-phenyl]methanol as a light yellow liquid (24.8 g, 78%). 1H NMR (CDCl3/400 MHz) 6.88-6.93 (m, 2H), 4.65 (s, 2H), 2.42 (s, 3H). HRMS m/z 190.0266 (M+H+, calcd 190.0264).

reactant | 3,5-difluoro-4-(methylthio)-benzaldehyde | 0.166 mol, 31.3 g | FC=1C=C(C=O)C=C(C1SC)F | C8H6F2OS
reactant | sodium borohydride | 0.042 mol, 1.6 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
reactant | Water | 600 ml | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | [3,5-difluoro-4-(methylthio)-phenyl]methanol | 24.8 g, 78% | FC=1C=C(C=C(C1SC)F)CO | C8H8F2OS
